US09376454B2
Step 2. Synthesis of (R)-3-{2-[2-(2-Amino-ethyl)-2,3-dihydro-1H-isoindol-5-yl]-acetylamino}-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid
Prepared from 3-[2-{2-[2-(2-tert-Butoxycarbonylamino-ethyl)-2,3-dihydro-1H-isoindol-5-yl]-acetylamino}-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethyl]-2-methoxy-benzoic acid and HCl following the procedure described in Step 6 of Example 48. The crude product was purified by reverse phase preparative HPLC and dried using lyophilization. ESI-MS m/z 410 (MH)+.

reactant | 3-[2-{2-[2-(2-tert-Butoxycarbonylamino-ethyl)-2,3-dihydro-1H-isoindol-5-yl]-acetylamino}-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethyl]-2-methoxy-benzoic acid | C(C)(C)(C)OC(=O)NCCN1CC2=CC=C(C=C2C1)CC(=O)NC(CC=1C(=C(C(=O)O)C=CC1)OC)B1OC2(C3C(C(CC2O1)C3)(C)C)C | C37H50BN3O8
reactant | HCl | Cl | ClH
product | (R)-3-{2-[2-(2-Amino-ethyl)-2,3-dihydro-1H-isoindol-5-yl]-acetylamino}-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid | NCCN1CC2=CC=C(C=C2C1)CC(=O)N[C@@H]1B(OC2=C(C1)C=CC=C2C(=O)O)O | C21H24BN3O5
